US06133258
The reaction procedure of Example 6 was followed except that 5.00 g of chloronicotinic acid, 25 ml of thionyl chloride, 2.42 g of ammonium thiocyanate and 5.24 g of ethyl 4-aminobenzoate were used. As a result, 8.88 g of ethyl 4-[(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino)benzoate obtained.

reactant | chloronicotinic acid | 5.00 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 2.42 g | [S-]C#N.[NH4+]
reactant | ethyl 4-aminobenzoate | 5.24 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | ethyl 4-[(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino)benzoate | 8.88 g | O=C1N=C(SC2=C1C=CC=N2)NC2=CC=C(C(=O)OCC)C=C2 | C16H13N3O3S
